US03950382
Preparation of Bis-(4-Hydroxy-3-Methyl-5-Tert. Butylbenzyl) Malonic Acid Distearyl Ester
27.6 G (0.125 mole) of (4-hydroxy-3-methyl-5-tert. butylbenzyl) dimethylamine, 30.5 g (0.05 mole) of malonic acid distearyl ester, and 0.5 g of sodium methylate were refluxed in 100 cc of absolute toluene for 21/2 hours while a current of nitrogen was passed through the reaction mixture. After cooling, the reaction mixture was diluted with methylene chloride, shaken out with 2N hydrochloric acid and water, and evaporated to dryness. The residue was slurried in methanol, filtered, and washed.

reactant | (4-hydroxy-3-methyl-5-tert. butylbenzyl) dimethylamine | 0.125 mole | OC1=C(C=C(CN(C)C)C=C1C(C)(C)C)C | C14H23NO
reactant | malonic acid distearyl ester | 0.05 mole, 30.5 g | C(CCCCCCCCCCCCCCCCC)OC(CC(=O)OCCCCCCCCCCCCCCCCCC)=O | C39H76O4
reactant | sodium methylate | 0.5 g | C[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Bis-(4-Hydroxy-3-Methyl-5-Tert. Butylbenzyl) Malonic Acid Distearyl Ester | C(CCCCCCCCCCCCCCCCC)OC(C(C(=O)OCCCCCCCCCCCCCCCCCC)(CC1=CC(=C(C(=C1)C(C)(C)C)O)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C)=O | C63H108O6
